### ISSUE TITLE
fun prop fails to find local theorem with match

### ISSUE THREAD

**Issue by lecopivo** [lecopivo/SciLean#32]
Very strange mix for pattern `fun (w,x) => ...` and `variable` makes `fun_prop` fail in this example
```
import SciLean

open SciLean

variable
  (K : Type _) [IsROrC K]
  {W : Type _} [Vec K W]
  {X : Type _} [Vec K X]
  {Y : Type _} [Vec K Y]

variable (f : W → X → Y) (hf : Continuous (fun (w,x) => f w x)) (w : W)

-- This fails
example : Continuous (fun x => f w x) := by fun_prop

variable (hf : Continuous (fun wx : W×X => f wx.1 wx.2)) (w : W)

-- This works
example : Continuous (fun x => f w x) := by fun_prop

-- This works
example (f : W → X → Y) (hf : Continuous (fun (w,x) => f w x)) (w : W) :
    Continuous (fun x => f w x) := by fun_prop
```

**Comment by lecopivo** [comment]
It seems that patterns are no longer supported in `variable`
